US05412098
Ethyl 3-(1,2,5-thiadiazole-3-ylamino)-2-(2-methyl-3,4,6-trifluorobenzoyl)acrylate (Compound No.157)
Compound No. 157 (colorless needles) was prepared in a similar manner to Example 17, proceeding from the corresponding compounds ethyl 2-methyl-3,4,6,-trifluorobenzoylacetate, ethyl orthoformate, acetic anhydride and 3-amino-1,2,5-thiadiazole hydrochloride.

reactant | ethyl 2-methyl-3,4,6,-trifluorobenzoylacetate | CC1=C(C(=O)CC(=O)OCC)C(=CC(=C1F)F)F | C12H11F3O3
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-1,2,5-thiadiazole hydrochloride | Cl.NC1=NSN=C1
product | Ethyl 3-(1,2,5-thiadiazole-3-ylamino)-2-(2-methyl-3,4,6-trifluorobenzoyl)acrylate | S1N=C(C=N1)NC=C(C(=O)OCC)C(C1=C(C(=C(C=C1F)F)F)C)=O | C15H12F3N3O3S
